data/specific_train_final.csv
"CC(=O)C=CC1(C(O1)(C)[C:10]=O)C.[O:20][O]>>CC(=O)C=CC1(C(O1)(C)[C:10](=O)[O:20][O])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1=CC2(C(C(C1O[O:20])(OO2)C)O)C.[N:10]=O>>CC1=CC2(C(C(C1O[O:20][N:10]=O)(OO2)C)O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][C:21](=O)CCCC.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CCCC[C:21]=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"c1ccccc1[C](=O)[O][O:10].[O:20][N+]([O-])=O>>c1ccccc1[C](=O)[O][O:10][O:20][N+]([O-])=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
[CH3:3][CH:2]([C:4]([CH3:5])([CH3:6])[CH3:7])[O:1].[N:9](=[O:10])[O:8]>>[CH3:3][CH:2]([C:4]([CH3:5])([CH3:6])[CH3:7])[O:1].[N+:9](=[O:10])[O-:8] 9-8,Room Temperature,Propagation,ha resonance
"C[O:20][O:21][O].[N+](=O)[O-]>>C[O:20].[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCC[CH2:10].[O:20][O]>>CCCC[CH2:10][O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:1][O:2][CH:3]([CH2:12])[C:4]([CH3:11])([CH2:5][OH:6])[O:7][N+:8](=[O:10])[O-:9].[O:13][O:14]>>[H:1][O:2][CH:3]([CH2:12][O:13][O:14])[C:4]([CH3:11])([CH2:5][OH:6])[O:7][N+:8](=[O:10])[O-:9] 13-12,13; 12-12,13",Room Temperature,Termination,recombine
"[CH3:9][CH2:8][CH:7]([CH:10]([CH3:11])[O:12][N+:13](=[O:15])[O-:14])[O:6][O:5][O:4][N+:2](=[O:1])[O-:3]>>[CH3:9][CH2:8][CH:7]([CH:10]([CH3:11])[O:12][N+:13](=[O:15])[O-:14])[O:6][O:5][O:4].[N+:2](=[O:1])[O-:3] 2,4-2; 2,4-4",Room Temperature,Initiation,homolyze
"CCC(COC(=O)C)[O:20][O:21]N=O>>CCC(COC(=O)C)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21]C1=C(C=CC=C1C)CC.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CCC1=C(C(=CC=C1)C)[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC1(C2CCC(C1C2)(CO)[O:20])C.[N+:10](=O)[O-]>>CC1(C2CCC(C1C2)(CO)[O:20][N+:10](=O)[O-])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:8][O:9][O:10].[CH3:1][C:2](=[CH2:7])[C:3](=[O:6])[O:4][O:5]>>[H:8][O:5][O:4][C:3](=[O:6])[C:2](=[CH2:7])[CH3:1].[O:9][O:10] 8,9-9;8,9-5,8;5-5,8",Room Temperature,Propagation,abstraction
"CCC(=O)/[CH:21]=[CH:20]\C1C(O1)(C)C=O.[OH:10]>>CCC(=O)[CH:21][CH:20](C1C(O1)(C)C=O)[OH:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCCCC(CO)O[O:20].[N:10]=O>>CCCCC(CO)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:9][CH2:8][CH2:7][CH:6]([CH:10]([CH3:11])[OH:12])[O:5][O:4][O:3][N+:2](=[O:1])[O-:13]>>[CH3:9][CH2:8][CH2:7][CH:6]([CH:10]([CH3:11])[OH:12])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:13] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"CC1(CC2C1CCC(C(CCC2=C)O[N+](=O)[O-])(C)[O:20][O:21]N=O)C>>CC1(CC2C1CCC(C(CCC2=C)O[N+](=O)[O-])(C)[O:20])C.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][CH:21](CC)CCCC.[Cl:10]>>[H:20][Cl:10].CCCC[CH:21]CC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[O:10].[O:20][Cl:21]>>[O:10][O:20][Cl:21] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:13][C:12]1([CH:9]2[CH2:8][CH2:7][C:6]([CH:11]1[CH2:10]2)([CH2:15][O:16][N+:17](=[O:19])[O-:18])[O:5][O:4][O:3][N+:2](=[O:1])[O-:20])[CH3:14]>>[CH3:13][C:12]1([CH:9]2[CH2:8][CH2:7][C:6]([CH:11]1[CH2:10]2)([CH2:15][O:16][N+:17](=[O:19])[O-:18])[O:5][O:4][O:3])[CH3:14].[N+:2](=[O:1])[O-:20] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CCCC(OCC(C)O)O[O:10]>>[H:20][O:10]OC(CCC)OCC(C)O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CCCC(C)(C)O[O:10]>>[H:20][O:10]OC(C)(C)CCC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[C:20]1=[CH:21]C(=CC(C1O)(C)O[O:10])C>>CC1=CC2(C([C:20]([CH:21]1)(C)[O:10]O2)O)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][O:21][O].CC1=C(C=C(C=C1)CO[O:10])C>>[H:20][O:10]OCC1=CC(=C(C=C1)C)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(CC(=O)C)O[O:20].[N+](=O)([O-])[O:10]>>CC(CC(=O)C)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21]C1=C(C=CC=C1)CC.[OH:10]>>[H:20][OH:10].CCC1=C(C=CC=C1)[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[C:10](CCl)Cl.[O:20][O]>>C[C:10](CCl)([O:20][O])Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(COO[O:20][N+:21](=O)[O-])O[N+](=O)[O-]>>CC(COO[O:20])O[N+](=O)[O-].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC(C)(CC)O[O:20].[N:10]=O>>CCC(C)(CC)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC(C[O:20][O:21]N=O)O[N+](=O)[O-]>>CCCC(C[O:20])O[N+](=O)[O-].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][C:21]1(C=C(C(=C([C:22]1O)C)C)C)O.[O:10][O]>>[H:20][O:10][O].CC1=C[C:21](=[C:22](C(=C1C)C)O)O 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
